US07662845B2
b) 2-[4-(Phenylethynyl)piperidin-1-yl]ethanamine
4-(Phenylethynyl)piperidine (0.5 mmol, 92 mg) was dissolved in acetonitrile (anhydrous 4 Å, 4 mL) together with bromoethylphtalimide (0.5 mmol, 128 mg) and K2CO3 (2 mmol, 276 mg). The reaction mixture was heated to reflux for 3 hours, diluted with ethyl acetate (50 mL) and washed with HCl/aq (1M, 50 mL). The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The protection group was removed by stirring the compound in methylamine (33% in ethanol, 5 mL) for another 3 hours. The mixture was evaporated, diluted with ethyl acetate (50 mL) and washed with NaOH (1M, 50 mL). The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude product was used without further purification.

reactant | 4-(Phenylethynyl)piperidine | 0.5 mmol, 92 mg | C1(=CC=CC=C1)C#CC1CCNCC1 | C13H15N
reactant | bromoethylphtalimide | 0.5 mmol, 128 mg | BrCCC1=C2C(C(=O)NC2=O)=CC=C1 | C10H8BrNO2
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-(Phenylethynyl)piperidin-1-yl]ethanamine | C1(=CC=CC=C1)C#CC1CCN(CC1)CCN | C15H20N2
